US08541576B2
1-tert-butyl-8-(methylsulfanyl)-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid 40 mg (0.112 mmol) was reacted in dry DMF (2 ml) with O-(tetrahydro-2H-pyran-2-yl)hydroxylamine 25 mg (0.21 mmol), TBTU 70 mg (0.21 mmol) and DIPEA 0.110 ml (1.19 mmol) at room temperature for 3 hours. The reaction was worked up with water, saturated NaHCO3 and extracted with ethyl acetate. The organic phase, dried on Na2SO4, filtered and evaporated, was purified on silica with DCM/EtOAc 7/3 to give 23 mg (50%) of 1-tert-butyl-8-(methylsulfanyl)-N-(tetrahydro-2H-pyran-2-yloxy)-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide. LC/MS (m/z): 416.1 [M+H]+, HPLC (254 nm) method 3 Rt 6.94 min.

reactant | 1-tert-butyl-8-(methylsulfanyl)-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid | 0.112 mmol, 40 mg | C(C)(C)(C)N1N=C(C=2C=CC=3C=NC(=NC3C21)SC)C(=O)O | C15H16N4O2S
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.21 mmol, 25 mg | O1C(CCCC1)ON | C5H11NO2
reactant | TBTU | 0.21 mmol, 70 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.19 mmol, 0.110 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-tert-butyl-8-(methylsulfanyl)-N-(tetrahydro-2H-pyran-2-yloxy)-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 23 mg, 50% | C(C)(C)(C)N1N=C(C=2C=CC=3C=NC(=NC3C21)SC)C(=O)NOC2OCCCC2 | C20H25N5O3S
